US08859596B2
(E)-N′-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-N,N-dimethylformimidamide
A mixture of 5-tert-butyl-1,3,4-thiadiazol-2-amine (Aldrich) (10.0 g, 63.6 mmol) and 1,1-dimethoxy-N,N-dimethylmethanamine (26.3 mL, 197 mmol) in 200 mL of toluene was heated at 100° C. for 12 hours. The mixture was cooled to room temperature and hexane was added. The solid was collected by filtration (hexane wash) to afford the title compound.

reactant | 5-tert-butyl-1,3,4-thiadiazol-2-amine | 63.6 mmol, 10.0 g | C(C)(C)(C)C1=NN=C(S1)N | C6H11N3S
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 197 mmol, 26.3 mL | COC(N(C)C)OC | C5H13NO2
reactant | hexane | CCCCCC | C6H14
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-N′-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-N,N-dimethylformimidamide | C(C)(C)(C)C1=NN=C(S1)/N=C/N(C)C | C9H16N4S
